US03951998
A mixture of 10 g. of 5-methyl-2-(3'-chloro-2'-hydroxypropylthio)benzothiazole and 20 ml. of t-butylamine was heated at 100°C. in a sealed tube for 4 hours, and dried in vacuo to give a yellow oil, which was purified by column chromatography on basic alumina and converted to its hydrochloride by a usual method. This hydrochloride was recrystallized from acetone-methanol to give needles of 5-methyl-2-(3'-t-butylamino-2'-hydroxypropylthio)benzothiazole hydrochloride, mp 152° - 155°C.

reactant | 5-methyl-2-(3'-chloro-2'-hydroxypropylthio)benzothiazole | CC=1C=CC2=C(N=C(S2)SCC(CCl)O)C1 | C11H12ClNOS2
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | 5-methyl-2-(3'-t-butylamino-2'-hydroxypropylthio)benzothiazole hydrochloride | Cl.CC=1C=CC2=C(N=C(S2)SCC(CNC(C)(C)C)O)C1 | InChI=1S/C15H22N2OS2.ClH/c1-10-5-6-13-12(7-10)17-14(20-13)19-9-11(18)8-16-15(2,3)4;/h5-7,11,16,18H,8-9H2,1-4H3;1H
